US05444162
3-Methylpentanoic acid anhydride was prepared from 6 moles of 3-methylpentanoic acid and 4.5 moles of acetic acid anhydride, by distilling acetic acid and the excess acetic acid anhydride from the reaction mixture at atmospheric pressure to a pot temperature of 220° C. Thereafter the desired anhydride was purified by distillation under reduced pressure. Yield: 97% of theory.

reactant | 3-methylpentanoic acid | 6 moles | CC(CC(=O)O)CC | C6H12O2
reactant | acetic acid anhydride | 4.5 moles | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Methylpentanoic acid anhydride | Yield: 97% | CC(CC(=O)OC(CC(CC)C)=O)CC | C12H22O3
